US05256673
4.5 g of 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-5-methoxy-6-ethoxycarbonylindole are boiled with 20 ml of water and 100 ml of 2N ethanolic KOH for 30 minutes, and the mixture is worked up in the customary manner to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-5-methoxyindole-6-carboxylic acid, m.p. 168°-171°.

reactant | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-5-methoxy-6-ethoxycarbonylindole | 4.5 g | C1(=CC=CC=C1)C=1CCN(CC1)CCSCC1=CNC2=CC(=C(C=C12)OC)C(=O)OCC | C26H30N2O3S
reactant | KOH | 2N, 100 ml | [OH-].[K+]
solvent | water | 20 ml | O | H2O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-2-thiabutyl]-5-methoxyindole-6-carboxylic acid | C1(=CC=CC=C1)C=1CCN(CC1)CCSCC1=CNC2=CC(=C(C=C12)OC)C(=O)O | C24H26N2O3S
